US09422272B2
2-bromo-3-hydroxyphenyl acetate
To a solution of 2-bromo-1,3-benzenediol (3.028 g, 16.02 mmol) in dichloromethane (70 ml), TEA (3.35 ml, 24.03 mmol) and acetic anhydride (1.512 ml, 16.02 mmol) were added under stirring. The reaction mixture was stirred at room temperature overnight. The reaction was quenched with a saturated solution of ammonium chloride (100 ml), and extracted with ethyl acetate (3 times 70 ml). The combined organic layers were dried over sodium sulphate, filtered and evaporated to afford the title compound as a black oil which was used directly used in the next step. (3.028 g)

reactant | 2-bromo-1,3-benzenediol | 16.02 mmol, 3.028 g | BrC1=C(C=CC=C1O)O | C6H5BrO2
reactant | acetic anhydride | 16.02 mmol, 1.512 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 2-bromo-3-hydroxyphenyl acetate | C(C)(=O)OC1=C(C(=CC=C1)O)Br | C8H7BrO3
